US06878728B1
Ethyl (4-{(2S,3R)-2-({[(3R,3aS,6aR)-hexahydrofuro[2,3-b]furan-3-yloxy]carbonyl}amino)-4-[(1,3-benzodioxol-5-ylsulfonyl)(isobutyl)amino]-3-hydroxybutyl}phenoxy)acetate (326)
To a stirred mixture of (3R,3aS,6aR)-hexahydrofuro[2,3-b]furan-3-yl (1S,2R)-3-[(1,3-benzodioxol-5-ylsulfonyl)(isobutyl)amino]-2-hydroxy-1-(4-hydroxybenzyl)propylcarbamate (200 mg, 0.34 mmol) and cesium carbonate (330 mg, 1.0 mmol) in N,N-dimethylformamide (5 mL) was added ethyl bromoacetate (75 μL, 0.67 mmol). After stirring at ambient temperature for 2 h, the reaction was diluted with ethyl acetate (50 mL), washed with water (3×40 mL), dried (magnesium sulfate) and concentrated in vacuo. The residue was purified by silica gel chromatography (60:40; ethyl acetate:hexane) to afford the title compound (162 mg, 71%) as a white foam. 1H NMR (DMSO-d6): δ 0.78 (6H, dd), 1.16 (3H, t), 1.17-1.43 (2H, m), 1.92 (1H, m), 2.35 (1H, t), 2.64-2.78 (3H, m), 2.88-3.01 (2H, m), 3.24-3.29 (1H, m), 3.40-3.60 (4H, m), 3.70 (1H, t), 3.78-3.82 (1H, m), 4.10 (2H, q), 4.65 (2H, s), 4.81 (1H, q), 5.00 (1H, d), 5.46 (1H, d), 6.12 (2H, s), 6.73 (2H, d), 7.02-7.07 (3H, m), 7.20-7.28 (3H, m); MS: 679 (MH+)

reactant | (3R,3aS,6aR)-hexahydrofuro[2,3-b]furan-3-yl (1S,2R)-3-[(1,3-benzodioxol-5-ylsulfonyl)(isobutyl)amino]-2-hydroxy-1-(4-hydroxybenzyl)propylcarbamate | 0.34 mmol, 200 mg | O1COC2=C1C=CC(=C2)S(=O)(=O)N(C[C@H]([C@H](CC2=CC=C(C=C2)O)NC(O[C@H]2CO[C@H]1OCC[C@H]12)=O)O)CC(C)C | C28H36N2O10S
reactant | cesium carbonate | 1.0 mmol, 330 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | ethyl bromoacetate | 0.67 mmol, 75 μL | BrCC(=O)OCC | C4H7BrO2
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | Ethyl (4-{(2S,3R)-2-({[(3R,3aS,6aR)-hexahydrofuro[2,3-b]furan-3-yloxy]carbonyl}amino)-4-[(1,3-benzodioxol-5-ylsulfonyl)(isobutyl)amino]-3-hydroxybutyl}phenoxy)acetate | 162 mg, 71% | O1C[C@@H]([C@H]2[C@@H]1OCC2)OC(=O)N[C@@H](CC2=CC=C(OCC(=O)OCC)C=C2)[C@@H](CN(CC(C)C)S(=O)(=O)C2=CC1=C(OCO1)C=C2)O | C32H42N2O12S
